US06525042B1
(2RS)-6-(N-tert-Butoxycarbonylaminomethyl)-2-hydroxymethyl-1,2,3,4-tetrahydronaphthalene
In tetrahydrofuran (10 ml), (2RS)-6-(N-tert-butoxycarbonylaminomethyl)-2-(tert-butyldimethylsilyloxymethyl)-1,2,3,4-tetrahydronaphthalene (1.09 g) was dissolved. To the resulting solution, tetra-butylammonium fluoride (a 1.0M tetrahydrofuran solution, 4.0 ml) was added, followed by stirring at room temperature for 2 hours. After concentration under reduced pressure, the concentrate was diluted with dichloromethane, washed with water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1˜2:1), whereby a colorless solid (0.77 g, 98%) was obtained. A portion of the solid was recrystallized from a mixed solvent of hexane and ethyl acetate, whereby colorless crystals were obtained.

reactant | (2RS)-6-(N-tert-butoxycarbonylaminomethyl)-2-(tert-butyldimethylsilyloxymethyl)-1,2,3,4-tetrahydronaphthalene | 1.09 g | C(C)(C)(C)OC(=O)NCC=1C=C2CCC(CC2=CC1)CO[Si](C)(C)C(C)(C)C | C23H39NO3Si
reactant | tetra-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0M | O1CCCC1 | C4H8O
product | (2RS)-6-(N-tert-Butoxycarbonylaminomethyl)-2-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | C(C)(C)(C)OC(=O)NCC=1C=C2CCC(CC2=CC1)CO | C17H25NO3
